*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA100ARA561MJC0G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA100ARA561MJC0G_20deg-C 1 2

C1 4 2 4.26e-04
C2 5 2 9.54e-05
C3 6 2 2.15e-05
R1 3 4 6.56e-03
R2 4 5 4.13e-02
R3 5 6 2.14e+00
L1 1 3 5.10e-09

.ENDS
